US06956053B2
Step c. 3-(Adamantan-1-yloxymethyl)-1-o-tolyl-1H-pyrazole-4-carboxylic acid.
A solution of 3-(adamantan-1-yloxymethyl)-1-o-tolyl-1H-pyrazole-4-carboxylic acid benzyl ester (0.359 g, 0.79 mmol) in MeOH-THF (1:1/24 mL) was hydrogenated over 10% palladium on charcoal (50 mg) for 19 h. The reaction mixture was filtered through a pad of Celite and the filtrate evaporated to afford the product, (0.29 g, 100%).

reactant | 3-(adamantan-1-yloxymethyl)-1-o-tolyl-1H-pyrazole-4-carboxylic acid benzyl ester | 0.79 mmol, 0.359 g | C(C1=CC=CC=C1)OC(=O)C=1C(=NN(C1)C1=C(C=CC=C1)C)COC12CC3CC(CC(C1)C3)C2 | C29H32N2O3
solvent | MeOH THF | 24 mL | CO.C1CCOC1
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 3-(Adamantan-1-yloxymethyl)-1-o-tolyl-1H-pyrazole-4-carboxylic acid | C12(CC3CC(CC(C1)C3)C2)OCC2=NN(C=C2C(=O)O)C2=C(C=CC=C2)C | C22H26N2O3
